US08119663B2
1-(Cyclopentylcarbonyl)-5-[4-(trifluoromethoxy)phenyl]piperidine-3-carboxylic acid [racemic cis/trans isomer mixture]
37 ml of dioxane, 18.5 ml of water and 0.51 g (21.4 mmol) of lithium hydroxide were added to 2.30 g (5.34 mmol) of ethyl 1-(cyclopentylcarbonyl)-5-[4-(trifluoromethoxy)phenyl]piperidine-3-carboxylate. The mixture was stirred overnight at RT. For work-up, the dioxane was removed under reduced pressure, water was added to the reaction mixture and the mixture was acidified using aqueous 1 N hydrochloric acid solution. The mixture was extracted with dichloromethane. The organic phase was dried with sodium sulphate and concentrated under reduced pressure. Yield: 2.17 g (99% of theory)

reactant | dioxane | 37 ml | O1CCOCC1 | C4H8O2
reactant | lithium hydroxide | 21.4 mmol, 0.51 g | [OH-].[Li+]
reactant | ethyl 1-(cyclopentylcarbonyl)-5-[4-(trifluoromethoxy)phenyl]piperidine-3-carboxylate | 5.34 mmol, 2.30 g | C1(CCCC1)C(=O)N1CC(CC(C1)C1=CC=C(C=C1)OC(F)(F)F)C(=O)OCC | C21H26F3NO4
solvent | water | 18.5 ml | O | H2O
product | 1-(Cyclopentylcarbonyl)-5-[4-(trifluoromethoxy)phenyl]piperidine-3-carboxylic acid | C1(CCCC1)C(=O)N1CC(CC(C1)C1=CC=C(C=C1)OC(F)(F)F)C(=O)O | C19H22F3NO4
